US07459554B2
C-(3-Chloropyrazin-2-yl)-C-phenylmethylamine hydrochloride (2-HCl):
To a solution of C-(3-chloropyrazin-2-yl)-C-phenylmethylamine (1.582 g, 7.20 mmol) in 1,4-dioxane (≦5 mL), HCl (2 mL, 7.55 mmol, 4M soln. in 1,4-dioxane) was added and left for approx. 5 min. The reaction mixture was filtered and the solid was washed several times with 1,4-dioxane, yielding the title compound as a tan solid. Sample contains ≈0.1 eq. of 1,4-dioxane by 1H NMR; 1H NMR (d-MeOH, 400 MHz) δ 5.85 (s, 1H), 7.35 (s, 1H), 8.44 (d, J=2.4 Hz, 1H), 8.65 (d, J=2.4 Hz, 1H).

reactant | C-(3-chloropyrazin-2-yl)-C-phenylmethylamine | 7.20 mmol, 1.582 g | ClC=1C(=NC=CN1)C(C1=CC=CC=C1)N | C11H10ClN3
reactant | HCl | 7.55 mmol, 4M, 2 mL | Cl | ClH
solvent | 1,4-dioxane | ≦5 mL | O1CCOCC1 | C4H8O2
product | C-(3-Chloropyrazin-2-yl)-C-phenylmethylamine hydrochloride | Cl.ClC=1C(=NC=CN1)C(C1=CC=CC=C1)N | InChI=1S/C11H10ClN3.ClH/c12-11-10(14-6-7-15-11)9(13)8-4-2-1-3-5-8;/h1-7,9H,13H2;1H
